US04382939
1,2,3,4-Tetrahydro-8,9,10-trimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one hydrochloride
Prepared by the method described in Example 1 from 3,4,5-trimethoxyphenol (25 g, 0.14 moles) and methyl 4-oxo-3-piperidinecarboxylate hydrochloride (18.8 g, 0.097 moles). Recrystallization from dilute aqueous hydrochloric acid yielded the product (17.5 g) as the hydrochloride, mp 232°-234° C.

reactant | 3,4,5-trimethoxyphenol | 0.14 moles, 25 g | COC=1C=C(C=C(C1OC)OC)O | C9H12O4
reactant | methyl 4-oxo-3-piperidinecarboxylate hydrochloride | 0.097 moles, 18.8 g | Cl.O=C1C(CNCC1)C(=O)OC
product | 1,2,3,4-Tetrahydro-8,9,10-trimethoxy-5H-[1]benzopyrano[3,4-c]pyridin-5-one hydrochloride | 17.5 g | Cl.COC1=CC2=C(C(=C1OC)OC)C1=C(CNCC1)C(O2)=O | InChI=1S/C15H17NO5.ClH/c1-18-11-6-10-12(14(20-3)13(11)19-2)8-4-5-16-7-9(8)15(17)21-10;/h6,16H,4-5,7H2,1-3H3;1H
